US06528528B2
3-[3-(3-Cyanophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.972 g, 4.0 mmol) and 3-cyanophenyl isothiocyanate (0.649 g, 4.0 mmol). Trituration in boiling ethyl acetate/dichloromethane (1:1) gave the product (1.358 g); m.p. 183-185° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.0 mmol, 0.972 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3-cyanophenyl isothiocyanate | 4.0 mmol, 0.649 g | C(#N)C=1C=C(C=CC1)N=C=S | C8H4N2S
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 3-[3-(3-Cyanophenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 1.358 g | C(#N)C=1C=C(C=CC1)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S | C22H18N4O2S
